US04021479
4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyric acid. Melting point of the cyclohexylamine salt: 175°-177° C. (from water). Yield 54% of theory.

reactant | 4-(4'-fluoro-4-biphenylyl)-4-oxo-butyric acid | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13FO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | water | O | H2O
product | 4-(4'-Fluoro-4-biphenylyl)-4-hydroxy-butyric acid | Yield 54% | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15FO3
